US06166009
1-(3-(10,11-Dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propyl)-3-piperidinecarboxamide hydrochloride
To a stirred solution of 3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propanol (1.44 g, 0.0057 mol, prepared similarly as described in example 2) and triethylamine (1.46 g, 0.014 mol) in toluene (40 ml) at 0° C., methanesulfonyl chloride (0.88 ml, 0.011 mol) was added dropwise over 10 minutes. The resulting mixture was stirred at 0° C. for 1.5 h. Toluene (50 ml) and water (100 ml) were added, and the phases were separated. The aqueous phase was extracted with toluene (50 ml), and the combined organic phases were washed with brine (2×100 ml), dried (MgSO4) and concentrated in vacuo. The residue was dissolved in acetonitrile (20 ml) and 3-piperidinecarboxamide (1.09 g, 0.0085 mol) and potassium carbonate (1.76 g, 0.013 mol) were added. The mixture was heated at reflux temperature for 4 h, and stirred at room temperature for 40 h. Water (20 ml) was added, and the product was extracted with ethyl acetate (2×20 ml). The combined organic extracts were washed with brine (2×20 ml), dried (MgSO4) and concentrated in vacuo. Water (20 ml) and concentrated hydrochloric acid (3.0 ml) were added, and the mixture was extracted with dichloromethane (2×20 ml), dried (MgSO4) and concentrated in vacuo. The residue was redissolved in a mixture of warm ethyl acetate (10 ml) and methanol (1.0 ml), and after standing for 5 h at room temperature, a precipitate was filtered off and dried, affording 1.56 g (64%) of the title compound.

reactant | 3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propanol | C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CCCO | C17H19NO
reactant | triethylamine | 0.014 mol, 1.46 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.011 mol, 0.88 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-piperidinecarboxamide | 0.0085 mol, 1.09 g | N1CC(CCC1)C(=O)N | C6H12N2O
reactant | potassium carbonate | 0.013 mol, 1.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | 20 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 1-(3-(10,11-Dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propyl)-3-piperidinecarboxamide hydrochloride | 1.56 g, 64% | Cl.C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CCCN3CC(CCC3)C(=O)N | InChI=1S/C23H29N3O.ClH/c24-23(27)20-9-5-14-25(17-20)15-6-16-26-21-10-3-1-7-18(21)12-13-19-8-2-4-11-22(19)26;/h1-4,7-8,10-11,20H,5-6,9,12-17H2,(H2,24,27);1H
